US07053082B1
(±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-7-carboxylic acid-imidazolide
A mixture of 3.37 g (10.0 millimoles) of (±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine, 1.95 g (12.0 millimoles) of 1,1′-carbonyl-diimidazole and 75 ml of anhydrous tetrahydrofurane is stirred under boiling for 20 hours. The reaction mixture is cooled with icecold water. The precipitated product is filtered and washed with 50 ml of diethyl ether. Thus 3.55 g of the desired product are obtained, yield 82%, mp.: 223–226° C.

reactant | (±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 10.0 millimoles, 3.37 g | CC1NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C18H17N3O4
reactant | 1,1′-carbonyl-diimidazole | 12.0 millimoles, 1.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofurane | 75 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-7-carboxylic acid imidazolide | 3.55 g, yield 82% | CC1N(N=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C(=O)O.[N-]1C=NC=C1 | InChI=1S/C19H17N3O6.C3H3N2/c1-10-5-12(3-4-15(10)22(25)26)18-14-8-17-16(27-9-28-17)7-13(14)6-11(2)21(20-18)19(23)24;1-2-5-3-4-1/h3-5,7-8,11H,6,9H2,1-2H3,(H,23,24);1-3H/q;-1
